US04108859
EXAMPLE 3 - N-(2,3,5,6-Tetrachloro-4-pyridinyl)-1,3-propanediamine, monohydrochloride
Using the same procedure as in Example 2, 25.1 g. (0.1 mole) of pentachloropyridine in 200 ml. of THF was caused to react with 22.3 g. (0.3 mole) of 1,3-propanediamine in 200 ml. of THF to give 18.6 g. (57%) of the title compound, melting at 248°-9°.

reactant | pentachloropyridine | 0.1 mole | ClC1=C(C(=C(C(=N1)Cl)Cl)Cl)Cl | C5Cl5N
reactant | 1,3-propanediamine | 0.3 mole | C(CCN)N | C3H10N2
solvent | THF | C1CCOC1 | C4H8O
product | 3 - N-(2,3,5,6-Tetrachloro-4-pyridinyl)-1,3-propanediamine, monohydrochloride | 57% | Cl.ClC1=NC(=C(C(=C1Cl)NCCCN)Cl)Cl | InChI=1S/C8H9Cl4N3.ClH/c9-4-6(14-3-1-2-13)5(10)8(12)15-7(4)11;/h1-3,13H2,(H,14,15);1H
